US07745475B2
3-[(1S)-2-Methoxy-1-methylethoxy]-5-[4-(methylsulfonyl)phenoxy]-N-1H-pyrazol-3-ylbenzamide
TFA (0.5 mL) was added to a solution of tert-butyl 3-({3-[(1S)-2-methoxy-1-methylethoxy]-5-[4-(methylsulfonyl)phenoxy]benzoyl}amino)-1H-pyrazole-1-carboxylate (180 mg, 0.330 mmol) in dry DCM (3 mL) and the reaction was stirred under argon for 3 h. A further portion of TFA (0.2 mL) was then added and the reaction was stirred for 30 min before all the solvent was removed in vacuo. The residue was taken up in ethyl acetate (30 mL) and saturated aqueous sodium hydrogencarbonate (15 mL) and the residue was evaporated then re-evaporated with DCM/hexanes to produce the title compound as a colourless foam (145 mg, 100%).

reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 3-({3-[(1S)-2-methoxy-1-methylethoxy]-5-[4-(methylsulfonyl)phenoxy]benzoyl}amino)-1H-pyrazole-1-carboxylate | 0.330 mmol, 180 mg | COC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C(=O)OC(C)(C)C)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C)C | C26H31N3O8S
reactant | TFA | 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-[(1S)-2-Methoxy-1-methylethoxy]-5-[4-(methylsulfonyl)phenoxy]-N-1H-pyrazol-3-ylbenzamide | 145 mg, 100% | COC[C@@H](OC=1C=C(C(=O)NC2=NNC=C2)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C)C | C21H23N3O6S
